US05196454
5-Acetylamino-2-[2-(2-thienyl)-ethyl-amino]-tetralinehydrochloride
2.03 g of (0.01 mol) of 5-acetylamino-2-tetralone, 3.2 g (0.02 mol) of 2-(2-thienyl)-ethyl-aminehydrochloride and 0.75 g (0.012 mol) of sodium cyanoborohydride are dissolved in 30 ml of methanol and stirred for 24 hours at ambient temperature. The mixture is then acidified by the dropwise addition of conc. hydrochloric acid with stirring and cooling with ice. After 10 minutes, 100 ml of water is added whilst stirring continues and then a total of 4.0 g of anhydrous soda is added in batches. Then extraction is carried out with 50 ml of methylene chloride and twice with 25 ml of methylene chloride. The combined extracts are washed with 20 ml of water, dried with sodium sulphate and after separation of the drying agent, concentrated by evaporation in a rotary evaporator, finally at 90° C. and under a complete water-jet vacuum. The residue is dissolved with 5 ml of methanol and 4.0 ml of 2.5 N ethanolic hydrochloric acid and the solution is mixed with diethylether until turbidity is just beginning. After standing for a period of about 12 hours at 5° C. the title compound is suction filtered, washed with ethanol/ether and dried at 80° C. until the weight remains constant. Yield: 3.1 g (88.3% of theory), melting point 276° C. (unchanged after recrystallisation from methanol/ether).

reactant | 5-acetylamino-2-tetralone | 0.01 mol, 2.03 g | C(C)(=O)NC1=C2CCC(CC2=CC=C1)=O | C12H13NO2
reactant | 2-(2-thienyl)-ethyl-aminehydrochloride | 0.02 mol, 3.2 g | Cl.S1C(=CC=C1)CCN
reactant | sodium cyanoborohydride | 0.012 mol, 0.75 g | C(#N)[BH3-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 30 ml | CO | CH4O
solvent | water | 100 ml | O | H2O
product | 5-Acetylamino-2-[2-(2-thienyl)-ethyl-amino]-tetralinehydrochloride | Cl.C(C)(=O)NC1=C2CCC(CC2=CC=C1)NCCC=1SC=CC1 | InChI=1S/C18H22N2OS.ClH/c1-13(21)20-18-6-2-4-14-12-15(7-8-17(14)18)19-10-9-16-5-3-11-22-16;/h2-6,11,15,19H,7-10,12H2,1H3,(H,20,21);1H
